US07994185B2
N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-chlorophenyl}-3-furansulfonamide
Following a procedure analogous to the procedure described in Example 52, Step B using N-{2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]phenyl}-3-furansulfonamide (130 mg, 0.255 mmol) and ammonium hydroxide (3 mL), the title compound was obtained as an off-white solid (48 mg, 38% yield). MS (ESI): 490 [M+H]+.

reactant | N-{2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]phenyl}-3-furansulfonamide | 0.255 mmol, 130 mg | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)Cl)C(C)(C)C)NS(=O)(=O)C1=COC=C1 | C21H18Cl2N4O3S2
reactant | ammonium hydroxide | 3 mL | [OH-].[NH4+]
product | N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-chlorophenyl}-3-furansulfonamide | NC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=COC=C1)Cl | C21H20ClN5O3S2
